Name:  ___      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Januvia / Lactose / smoke
 
Attending: ___.
 
Chief Complaint:
Primary hyperparathyroidism
 
Major Surgical or Invasive Procedure:
Primary hyperparathyroidism with sestamibi positive right lower 
pole and ultrasound questionable.

 
History of Present Illness:
This is a ___ year old female with history of primary 
hyperparathyroidism with sestamibi positive right lower pole and 
ultrasound questionable. She presents for removal of right 
inferior parathyroid adenoma. Risks and benefits associated with 
the above procedure have been discussed, and the patient freely 
consented to the procedure. 
 
Past Medical History:
Parathyroid adenoma, Type 2 diabetes. High cholesterol. 
Hypertension. Liver disease/obesity. 

Removal of right inferior parathyroid adenoma (___)

 
Social History:
___
Family History:
NC
 
Physical Exam:
vital signs: 98.7 108 146/80 20 94%RA
General: No acute distress, alert and oriented 
HEENT:neck supple, trachea midline,incision with steri-strips 
intact, no hematoma,no erythema or drainage
Cardiovascular:regular rate and rhythm, no murmurs/gallops/rubs
Respiratory:unlabored
Abdomen:soft/non-tender/non-distended
Extremities:no clubbing/cyanosis/edema

 
Pertinent Results:
___ 11:05AM BLOOD PTH-LESS THAN 
___ 08:44AM BLOOD PTH-50
 
Brief Hospital Course:
This patient underwent removal of right inferior parathyroid 
adenoma. She tolerated the procedure well and was transferred to 
the recovery room. In the PACU,she had asthma exacerbation and 
required albuterol nebulizer treatment/oxygen supplementation. 
She was placed on telemetry and continuous O2 sats and admitted 
overnight. POD 1 her oxygen was weaned and she had no further 
respiratory issues. She had no voice hoarseness,perioral or 
lower extremity paresthesia. Her pain was well controlled on 
oral pain medication. Her neck remained soft and there were no 
signs of wound infection or hematoma.  Her diet was advanced to 
regular as tolerated. She was discharged home in good condition 
and will follow-up with Dr. ___.

 
Medications on Admission:
atorvastatin 10', folic acid 1', glipizide 5', metformin ER 
1000'', olmesartan 20', aspirin 81', vitamin d3 ___, fish oil 
1200', mvi, coq 100', chromium 400', align, omeprazole 20''prn
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H 
2. Atorvastatin 10 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Stool Softener] 100 mg 1 capsule(s) by 
mouth twice a day Disp #*60 Capsule Refills:*0
4. olmesartan *NF* 20 mg Oral daily Reason for Ordering: Wish to 
maintain preadmission medication while hospitalized, as there is 
no acceptable substitute drug product available on formulary.
5. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0
6. glipiZIDE *NF* 5 mg Oral QD 
7. FoLIC Acid 1 mg PO DAILY 
8. MetFORMIN XR (Glucophage XR) 1000 mg PO BID 
Do Not Crush 
9. Aspirin 81 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Removal of right inferior parathyroid adenoma.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the inpatient general surgery unit after 
removal of right inferior parathyroid adenoma.You have adequate 
pain control and have tolerated a regular diet and may return 
home to continue your recovery.  
Please resume all regular home medications, unless specifically 
advised not to take a particular medication and take any new 
medications as prescribed. You will be given a prescription for 
narcotic pain medication, take as prescribed. It is recommended 
that you take a stool softner such as Colace while taking oral 
narcotic pain medication to prevent constipation. You may also 
take acetaminophen (Tylenol) as directed, but do not exceed 4000 
mg in one day. Please get plenty of rest, continue to walk 
several times per day, and drink adequate amounts of fluids. 
Please call your surgeon or go to the emergency department if 
you have increased pain, swelling, redness, or drainage from the 
incision site.You may shower and wash incisions with a mild soap 
and warm water.Avoid swimming and baths until cleared by your 
surgeon.Gently pat the area dry.You have a neck incision with 
steri-strips in place, do not remove, they will fall off on 
their own. 
Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities. Good luck!

 
Followup Instructions:
___